2198-10-30 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2198-10-29**] 09:30 AM
   placed in ed
 SPUTUM CULTURE - At [**2198-10-29**] 12:59 PM
 ULTRASOUND - At [**2198-10-29**] 03:00 PM
   cardiac echo
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2198-10-29**] 09:00 PM
   Pt bite through pilot cuff, anesthesia called, MICU residents at
   bedside, Resp therapist removed ET-Tube due to cuff leak, ICU attending
   at bedside to assess pt and plan to give pt trial w/o tube to see how
   he does. Sats 98% on 80% high flow mask.
   -Pt bit through ballon, had to be extubated, but tolerated
   -restarted on home pain regimen but PO meds held d/t regurgitation;
   standing reglan started
   -IVF as maintenance
   -Echo wnl
   -nutrition consult for tube-feeds.
   -F/u cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-10-29**] 08:00 PM
   Cefipime - [**2198-10-30**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-10-30**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 85 (42 - 109) bpm
   BP: 120/85(94) {86/58(65) - 137/115(119)} mmHg
   RR: 14 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (4 - 15)mmHg
   SvO2: 78%
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  7,051 mL
                                                                    574 mL
   PO:
   TF:
   IVF:
                                                                  3,051 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    466 mL
   Urine:
                                                                  1,535 mL
                                                                    466 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,016 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 581 (581 - 581) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.37/48/80.[**Numeric Identifier 500**]/27/1
   Ve: 8.1 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Thin male
   Eyes / Conjunctiva: PERRL, pupils about 4mm equal and minimally
   reactive to light; anicteric sclera and non-injected conjunctiva
   Head, Ears, Nose, Throat: Normocephalic, swollen lower lip from tough
   intubation
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) heart sounds
   are distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : ), course breath sounds bilaterally but no
   wheezing or rales appreciated
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, J tube in
   place. site is clean
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, all
   four extremities are contracted with bilateral feet in plantar flexion
   Musculoskeletal: Muscle wasting
   Skin:  Warm.
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, tracking with eyes, but not following
   commands. Toes mute bilaterally.
   Labs / Radiology
   212 K/uL
   9.5 g/dL
   87 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   8 mg/dL
   107 mEq/L
   141 mEq/L
   29.3 %
   15.0 K/uL
        [image002.jpg]
                            [**2198-10-29**]  09:10 AM
                            [**2198-10-29**]  10:00 AM
                            [**2198-10-29**]  10:02 AM
                            [**2198-10-30**]  12:54 AM
                            [**2198-10-30**]  04:02 AM
   WBC
   21.0
   15.0
   Hct
   34
   31.5
   29.3
   Plt
   272
   212
   Cr
   0.8
   0.5
   TropT
   0.03
   TCO2
   29
   29
   Glucose
   97
   87
   Other labs: PT / PTT / INR:27.3/38.5/2.7, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   ABG post-extubation: 7.37 / 38 / 80 / 29  96% O2 sat
   Micro: sputum 4+ GPC in pairs, clusters, & chains; urine legionella
   negative
   CT head
 chronic subdurals; CT torso
 multifocal PNA with mucoid
   impaction, lg amt of stool in colon.
   Assessment and Plan
 62 yo Spanish male with PMH of embolic and hemorrhagic CVA, HTN, DM2
   who presents with altered mental status, fevers and hypotension and
   question of hypoxia.
   # Fevers: Likely aspiration PNA causing initial fevers, hypotension,
   leukocytosis and imaging findings in the context of a history of
   chronic aspiration and most of infiltrates in the dependent lung areas
   (vs hospital/health care associated pneumonia given recent
   hospitalization). Imaging suggests a multifocal pneumonia.  Patient was
   unexpectedly extubated last night, but has done well post-extubation
   maintaining O2 sats and appears comfortable on high flow mask.
   Speciation from sputum is still pending.  Urine Legionella antigen is
   negative.
   -continue broad spectrum antibiotics with vancomycin & cefepime.
   -f/u sputum culture results
   -hold on fluoroquinolone or azithro for now given prolonged QTc, but
   may need to add for atypical coverage.  Reassuring that fevers have
   subsided and WBC count is trending downward.
   -stool culture given recent history of C diff
   -follow up blood cultures.
   -send nasal aspirate for influenza and viral culture
   -droplet precautions
   -aspiration precautions
   .
    # hypotension: likely secondary to infection given initially elevated
   lactate. Has not required pressor support since shortly after arriving
   on the floor.  ECHO within normal limits.  2 sets of cardiac enzymes
   negative, low suspicion for MI.
   .
   # bradycardia: was reportedly in the 50s through most of the ED stay.
   Minimal old notes in our system but his heart rate was 50-80s per those
   records.  Initial bradycardia could be secondary to neosynepherine or
   sepsis causing sick sinus vs concern for bacteremia and endocarditis vs
   just sinus bradycardia. QTc is also mildly prolonged.  Bradycardia is
   now resolved.
   .
   # Hypoxia: unclear if he was hypoxic in the [**Name (NI) **] although was at least
   hypoxic at the nursing home. Likely from pneumonia. ABG looks good with
   good oxygenation.  Continue high flow mask and wean as tolerated.
   .
   # altered mental status:  Reportedly was not responding to his
   surroundings at nursing home.  At baseline unable to speak, but does
   communicate through head nods & facial responses.  Lack of response on
   presentation likely related to infection.  Head CT showed no acute
   process.  Patient has been alert and responding appropriately since he
   was extubated.
   .
   # CHF:  unknown EF or cardiac function. Has lower extremity edema and
   also has LAD, RBBB with LAFB on EKG. Also takes lasix as outpatient.
   Likely has some sort of CHF. Lungs did not sound fluid overloaded on
   presentation, but did sound so on the morning of [**10-30**].  Lasix was
   initially held given hypotension, but restarted on [**10-30**].  No evidence
   of CHF on EHCO.
   -not on BB for unclear reason but would hold now anyway.
   -hold ACEI given initial hypotension and ARF
   .
   # CAD with history of MI: No evidence for cardiac ischemia.  EKG
   changes may have been secondary to pulmonary process.
   -continue plavix, statin, unclear why not on BB but currently
   bradycardic so hold off.
   -not on aspirin likely given already on coumadin and plavix with
   history of CVA (hemorrhagic and embolic)
   .
   # acute renal failure: Cr 1.1 on admission, likely pre-renal as it has
   now resolved with fluid resuscitation.
   -monitor UOP
   -if worsens, will check urine lytes
   -hold ACEI
   # diabetes type 2: Unknown control. Finger sticks, continue insulin
   regular scale for now.  Will need tube feeds with carbohydrate control.
   # sacral decubs: stage I and also an old healing ulcer without
   currently skin breakdown or signs of infection
   -wound care consult
   # anemia: chronic iron deficiency anemia. HCT at baseline currently.
   Monitor closely. Is scheduled for outpatient colonoscopy at the end of
   this month.
   # elevated transaminases: likely related to hypotension. Continue to
   monitor and will investigate further pending the trend.
   # hypothyroidism: continue levothyroxine.
   # chronic pain: Sedating medications restarted post-extubation, but POs
   held given concern for regurgitation/aspiration of GI contents on
   evening of [**10-29**].   Given IV morphine Q6 instead of PO Q8 for pain.
   (currently not receiving baclofen, PO morphine, neurontin)
   # h/o embolic and hemorrhagic CVA: continue plavix, hold coumadin given
   supratherapeutic INR. Will start heparin gtt when INR at 2 or if
   improved, can even restart coumadin if not procedures anticipated.
   # h/o DVT: currently anticoagulated.
   # depression: continue cymbalta, mirtazepine
   # FEN: Was started on reglan 10 mg Q6H for retaining food in stomach &
   regurgitating to oropharynx on evening of [**10-29**].  No meds or fluids
   given per PEG overnight.  Will slowly restart meds today & determine
   how pt. tolerates them before advancing to PEG tube feeds.  Pt. must be
   NPO due to risk of aspiration.  Nutrition consult requested.  Repleting
   lytes prn.
   # PPX: anticoagulated currently for DVT ppx, H2 blocker for GI ppx.
   Bowel regimen increased.  Wound care.
   # Communication: Wife: [**Name (NI) 2009**] [**Telephone/Fax (1) 2010**]. Son [**Name (NI) 2011**] [**Location (un) 2012**]
   home [**Telephone/Fax (1) 2013**] and cell [**Telephone/Fax (1) 2014**]. Son [**Name (NI) **] [**Telephone/Fax (1) 2015**].
   # Code: Full confirmed with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-10-29**] 09:30 AM
   18 Gauge - [**2198-10-29**] 09:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-10-30 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Apsiration Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2198-10-29**] 09:30 AM
   placed in ed
 SPUTUM CULTURE - At [**2198-10-29**] 12:59 PM
 ULTRASOUND - At [**2198-10-29**] 03:00 PM
   cardiac echo
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2198-10-29**] 09:00 PM
   Pt bite through pilot cuff, anesthesia called, MICU residents at
   bedside, Resp therapist removed ET-Tube due to cuff leak, ICU attending
   at bedside to assess pt and plan to give pt trial w/o tube to see how
   he does. Sats 98% on 80% high flow mask.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2198-10-30**] 12:00 AM
   Vancomycin - [**2198-10-30**] 08:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2198-10-30**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 95 (42 - 109) bpm
   BP: 132/79(91) {97/59(69) - 132/88(94)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (4 - 15)mmHg
   SvO2: 84%
   Mixed Venous O2% Sat: 81 - 81
                                Total In:
                                                                  7,051 mL
                                                                  1,050 mL
   PO:
                                TF:
   IVF:
                                                                  3,051 mL
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    776 mL
   Urine:
                                                                  1,535 mL
                                                                    776 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,016 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 581 (581 - 581) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.37/48/80.[**Numeric Identifier 500**]/27/1
   Ve: 8.1 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   212 K/uL
   87 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   8 mg/dL
   107 mEq/L
   141 mEq/L
   29.3 %
   15.0 K/uL
        [image002.jpg]
                            [**2198-10-29**]  09:10 AM
                            [**2198-10-29**]  10:00 AM
                            [**2198-10-29**]  10:02 AM
                            [**2198-10-30**]  12:54 AM
                            [**2198-10-30**]  04:02 AM
   WBC
   21.0
   15.0
   Hct
   34
   31.5
   29.3
   Plt
   272
   212
   Cr
   0.8
   0.5
   TropT
   0.03
   TCO2
   29
   29
   Glucose
   97
   87
   Other labs: PT / PTT / INR:27.3/38.5/2.7, CK / CKMB /
   Troponin-T:287/5/0.03, Differential-Neuts:86.0 %, Lymph:8.5 %, Mono:5.1
   %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.2 mg/dL
   Fluid analysis / Other labs: 7.37/48/88/29
   Microbiology: Urine Leg--Negative
   Assessment and Plan
   62 yo male admit with hypoxemic respiratory failure secondary to
   aspiration pneumonia.  He has had imaging showing some [**Hospital1 **]-basilar
   opacities but without evidence of dense consolidation.  The
   minimization of aspration risk ongoing wil have to be largely driven by
   modification of body position, timing of PEG feeds and use of
   pro-motility agents.
   Respiratory Failure-Patient extubated without event overnight.  Has
   persistent hypoxemia which is not unexpected given the extent of
   [**Hospital1 **]-basilar opacities
   -Vanco/Cefepime
   -Aspiration precautions
   -Reglan IV q 6 hours
   -Wean O2 as possible
currently is down to 50% FIO2
   -Follow up culture results
 IMPAIRED PHYSICAL MOBILITY
   -Po pain medication to be returned for pain control and spasticity
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-10-29**] 09:30 AM
   18 Gauge - [**2198-10-29**] 09:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
[**Month (only) 11**] consider transfer to floor of feeds tolerated and
   FIO2 wean adequately tolerated to FIO2 <50%
   Total time spent: 35 minutes

2198-10-31 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Did not get called out due to secretions, frequent suctioning
   Restarted coumadin 3.5mg qday (home dose)
   Increased lactulose
   Lasix 20mg IV qday ordered as per home dose (40mg PO)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-10-30**] 08:00 PM
   Cefipime - [**2198-10-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2198-10-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-10-31**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 96 (72 - 110) bpm
   BP: 128/67(81) {117/66(78) - 152/97(103)} mmHg
   RR: 17 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (1 - 10)mmHg
   SvO2: 87%
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  2,171 mL
                                                                    467 mL
   PO:
   TF:
                                                                     45 mL
                                                                    135 mL
   IVF:
                                                                  1,946 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,618 mL
                                                                    560 mL
   Urine:
                                                                  2,618 mL
                                                                    555 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -447 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin male
   Eyes / Conjunctiva: PERRL, pupils about 4mm equal and minimally
   reactive to light; anicteric sclera and non-injected conjunctiva
   Head, Ears, Nose, Throat: Normocephalic, swollen lower lip from tough
   intubation
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) heart sounds
   are distant
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : ), course breath sounds bilaterally but no
   wheezing or rales appreciated
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, J tube in
   place. site is clean
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, all
   four extremities are contracted with bilateral feet in plantar flexion
   Musculoskeletal: Muscle wasting
   Skin:  Warm.
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, tracking with eyes, but not following
   commands. Toes mute bilaterally.
   Labs / Radiology
   210 K/uL
   9.5 g/dL
   98 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   7 mg/dL
   106 mEq/L
   141 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2198-10-29**]  09:10 AM
                            [**2198-10-29**]  10:00 AM
                            [**2198-10-29**]  10:02 AM
                            [**2198-10-30**]  12:54 AM
                            [**2198-10-30**]  04:02 AM
                            [**2198-10-30**]  04:28 PM
                            [**2198-10-31**]  02:45 AM
   WBC
   21.0
   15.0
   11.5
   Hct
   34
   31.5
   29.3
   30.0
   Plt
   272
   212
   210
   Cr
   0.8
   0.5
   0.5
   0.5
   TropT
   0.03
   TCO2
   29
   29
   Glucose
   97
   87
   88
   98
   Other labs: PT / PTT / INR:21.8/34.9/2.1, CK / CKMB /
   Troponin-T:287/5/0.03, Differential-Neuts:83.3 %, Lymph:11.3 %,
   Mono:4.0 %, Eos:1.3 %, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL, Mg++:1.8
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 62 yo Spanish male with PMH of embolic and hemorrhagic CVA, HTN, DM2
   who presents with altered mental status, fevers and hypotension and
   question of hypoxia.
   # Fevers: Likely aspiration PNA causing initial fevers, hypotension,
   leukocytosis and imaging findings in the context of a history of
   chronic aspiration and most of infiltrates in the dependent lung areas
   (vs hospital/health care associated pneumonia given recent
   hospitalization). Imaging suggests a multifocal pneumonia.  Patient was
   unexpectedly extubated last night, but has done well post-extubation
   maintaining O2 sats and appears comfortable on high flow mask.
   Speciation from sputum is still pending.  Urine Legionella antigen is
   negative.
   -continue broad spectrum antibiotics with vancomycin & cefepime.
   -f/u sputum culture results
   -hold on fluoroquinolone or azithro for now given prolonged QTc, but
   may need to add for atypical coverage.  Reassuring that fevers have
   subsided and WBC count is trending downward.
   -stool culture given recent history of C diff
   -follow up blood cultures.
   -send nasal aspirate for influenza and viral culture
   -droplet precautions
   -aspiration precautions
   .
    # hypotension: likely secondary to infection given initially elevated
   lactate. Has not required pressor support since shortly after arriving
   on the floor.  ECHO within normal limits.  2 sets of cardiac enzymes
   negative, low suspicion for MI.
   .
   # bradycardia: was reportedly in the 50s through most of the ED stay.
   Minimal old notes in our system but his heart rate was 50-80s per those
   records.  Initial bradycardia could be secondary to neosynepherine or
   sepsis causing sick sinus vs concern for bacteremia and endocarditis vs
   just sinus bradycardia. QTc is also mildly prolonged.  Bradycardia is
   now resolved.
   .
   # Hypoxia: unclear if he was hypoxic in the [**Name (NI) **] although was at least
   hypoxic at the nursing home. Likely from pneumonia. ABG looks good with
   good oxygenation.  Continue high flow mask and wean as tolerated.
   .
   # altered mental status:  Reportedly was not responding to his
   surroundings at nursing home.  At baseline unable to speak, but does
   communicate through head nods & facial responses.  Lack of response on
   presentation likely related to infection.  Head CT showed no acute
   process.  Patient has been alert and responding appropriately since he
   was extubated.
   .
   # CHF:  unknown EF or cardiac function. Has lower extremity edema and
   also has LAD, RBBB with LAFB on EKG. Also takes lasix as outpatient.
   Likely has some sort of CHF. Lungs did not sound fluid overloaded on
   presentation, but did sound so on the morning of [**10-30**].  Lasix was
   initially held given hypotension, but restarted on [**10-30**].  No evidence
   of CHF on EHCO.
   -not on BB for unclear reason but would hold now anyway.
   -hold ACEI given initial hypotension and ARF
   .
   # CAD with history of MI: No evidence for cardiac ischemia.  EKG
   changes may have been secondary to pulmonary process.
   -continue plavix, statin, unclear why not on BB but currently
   bradycardic so hold off.
   -not on aspirin likely given already on coumadin and plavix with
   history of CVA (hemorrhagic and embolic)
   .
   # acute renal failure: Cr 1.1 on admission, likely pre-renal as it has
   now resolved with fluid resuscitation.
   -monitor UOP
   -if worsens, will check urine lytes
   -hold ACEI
   # diabetes type 2: Unknown control. Finger sticks, continue insulin
   regular scale for now.  Will need tube feeds with carbohydrate control.
   # sacral decubs: stage I and also an old healing ulcer without
   currently skin breakdown or signs of infection
   -wound care consult
   # anemia: chronic iron deficiency anemia. HCT at baseline currently.
   Monitor closely. Is scheduled for outpatient colonoscopy at the end of
   this month.
   # elevated transaminases: likely related to hypotension. Continue to
   monitor and will investigate further pending the trend.
   # hypothyroidism: continue levothyroxine.
   # chronic pain: Sedating medications restarted post-extubation, but POs
   held given concern for regurgitation/aspiration of GI contents on
   evening of [**10-29**].   Given IV morphine Q6 instead of PO Q8 for pain.
   (currently not receiving baclofen, PO morphine, neurontin)
   # h/o embolic and hemorrhagic CVA: continue plavix, hold coumadin given
   supratherapeutic INR. Will start heparin gtt when INR at 2 or if
   improved, can even restart coumadin if not procedures anticipated.
   # h/o DVT: currently anticoagulated.
   # depression: continue cymbalta, mirtazepine
   # FEN: Was started on reglan 10 mg Q6H for retaining food in stomach &
   regurgitating to oropharynx on evening of [**10-29**].  No meds or fluids
   given per PEG overnight.  Will slowly restart meds today & determine
   how pt. tolerates them before advancing to PEG tube feeds.  Pt. must be
   NPO due to risk of aspiration.  Nutrition consult requested.  Repleting
   lytes prn.
   # PPX: anticoagulated currently for DVT ppx, H2 blocker for GI ppx.
   Bowel regimen increased.  Wound care.
   # Communication: Wife: [**Name (NI) 2009**] [**Telephone/Fax (1) 2010**]. Son [**Name (NI) 2011**] [**Location (un) 2012**]
   home [**Telephone/Fax (1) 2013**] and cell [**Telephone/Fax (1) 2014**]. Son [**Name (NI) **] [**Telephone/Fax (1) 2015**].
   # Code: Full confirmed with family.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2198-10-30**] 09:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-10-29**] 09:30 AM
   18 Gauge - [**2198-10-29**] 09:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-10-31 12:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with increased secretions and frequent suctioning required
   PEG tube feeds returned
   Reglan continued
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2198-10-31**] 12:00 AM
   Vancomycin - [**2198-10-31**] 08:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2198-10-31**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-10-31**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 97 (72 - 114) bpm
   BP: 126/71(81) {112/66(77) - 152/97(103)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 2 (1 - 4)mmHg
   SvO2: 85%
                               Total In:
                                                                  2,171 mL
                                                                  1,176 mL
   PO:
                               TF:
                                                                     45 mL
                                                                    354 mL
   IVF:
                                                                  1,946 mL
                                                                    542 mL
   Blood products:
   Total out:
                                                                  2,618 mL
                                                                  1,322 mL
   Urine:
                                                                  2,618 mL
                                                                  1,317 mL
   NG:
   5 mL
   Stool:
   Drains:
   Balance:
                                                                   -447 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Rhonchorous: )
   Extremities: Right: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   210 K/uL
   98 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   7 mg/dL
   106 mEq/L
   141 mEq/L
   30.0 %
   11.5 K/uL
        [image002.jpg]
                            [**2198-10-29**]  09:10 AM
                            [**2198-10-29**]  10:00 AM
                            [**2198-10-29**]  10:02 AM
                            [**2198-10-30**]  12:54 AM
                            [**2198-10-30**]  04:02 AM
                            [**2198-10-30**]  04:28 PM
                            [**2198-10-31**]  02:45 AM
   WBC
   21.0
   15.0
   11.5
   Hct
   34
   31.5
   29.3
   30.0
   Plt
   272
   212
   210
   Cr
   0.8
   0.5
   0.5
   0.5
   TropT
   0.03
   TCO2
   29
   29
   Glucose
   97
   87
   88
   98
   Other labs: PT / PTT / INR:21.8/34.9/2.1, CK / CKMB /
   Troponin-T:287/5/0.03, Differential-Neuts:83.3 %, Lymph:11.3 %,
   Mono:4.0 %, Eos:1.3 %, Lactic Acid:1.7 mmol/L, Ca++:8.2 mg/dL, Mg++:1.8
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   62 yo male admit with aspiraton pneumonia and now with successful
   extubation has been managed with Reglan for motility and frequent
   suctioning and chest PT.  OF note we have had some significant decrease
   in WBC count and no further episodes of observed aspiration.
   1)Respiratory Failure-
   -Suction PRN
   -Continue ABX x10days
   -Chest PT
   -Will need frequent saturations monitored
   -Vanco/Cefepime
   2)Aspiration Pneumonitis-
   -Reglan in place
   -NPO
   -Tube feeds only
   -Will need supervised feeds going forward
   3)LE Pain-
   -WIll continue with outpatient medications.
 PNEUMONIA, OTHER
 IMPAIRED PHYSICAL MOBILITY
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-10-29**] 09:30 AM
D/C continue CO monitoring
   18 Gauge - [**2198-10-29**] 09:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes